US07989454B2
(3-Iodo-5-methoxy-phenyl)-(4-methyl-piperazin-1-yl)-methanone
The title compound was prepared by the same method as N-benzyl-3-iodo-5-methoxy-benzamide. 4-Methylpiperazine was used instead of benzylamine. Starting with 3.1 g of 3-iodo-5-methoxybenzoic acid, 3.2 g (80% yield) of the title compound was obtained.

reactant | N-benzyl-3-iodo-5-methoxy-benzamide | C(C1=CC=CC=C1)NC(C1=CC(=CC(=C1)OC)I)=O | C15H14INO2
reactant | 4-Methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 3-iodo-5-methoxybenzoic acid | 3.1 g | IC=1C=C(C(=O)O)C=C(C1)OC | C8H7IO3
product | (3-Iodo-5-methoxy-phenyl)-(4-methyl-piperazin-1-yl)-methanone | 3.2 g, 80% yield | IC=1C=C(C=C(C1)OC)C(=O)N1CCN(CC1)C | C13H17IN2O2
